US05663371
A mixture of methyl 2-chloro-2-(3-methyl-4-nitrophenyl)acetate (6 g) in methanol (20 cm3) was stirred at room temperature and the solutions of bromine and sodium methoxide were added dropwise and simultaneously. The methanol was removed from the reaction mixture under vacuum and the residue was dissolved in dichloromethane. The dichloromethane solution was washed with water, separated and evaporated to have a residue which was recrystallised from ethanol to give yellow methyl 2-bromo-2-chloro-2-(3-methyl-4-nitrophenyl)acetate (4.0 g, 50%).

reactant | methyl 2-chloro-2-(3-methyl-4-nitrophenyl)acetate | 6 g | ClC(C(=O)OC)C1=CC(=C(C=C1)[N+](=O)[O-])C | C10H10ClNO4
reactant | bromine | BrBr | Br2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20 cm3 | CO | CH4O
product | methyl 2-bromo-2-chloro-2-(3-methyl-4-nitrophenyl)acetate | 4.0 g, 50% | BrC(C(=O)OC)(C1=CC(=C(C=C1)[N+](=O)[O-])C)Cl | C10H9BrClNO4
